US06448397B1
A mixture of 8-chloro-1-phenyl-1,2,9,10-tetrahydro[1,4]oxazino[2,3,4-jk]carbazol-7(8H)-one (0.235 g, 0.697 mmol), anhydrous LiCl (0.0355 g, 0.837 mmol), Li2CO3 (0.0618 g, 0.837 mmol), and DMF (1.8 mL) is stirred at 140° C. for 3.5 h. After cooling, the mixture is partitioned between CH2C2 and water. The organic layers are dried over sodium sulftate, concentrated, and chromatographed on silica gel gel using EtOAc/hexane (10/90) to give 0.143 g (68%) of 1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-ol.

reactant | 8-chloro-1-phenyl-1,2,9,10-tetrahydro[1,4]oxazino[2,3,4-jk]carbazol-7(8H)-one | 0.697 mmol, 0.235 g | ClC1CCC=2N3C4=C(C=CC=C4C2C1=O)OCC3C3=CC=CC=C3 | C20H16ClNO2
reactant | LiCl | 0.837 mmol, 0.0355 g | [Li+].[Cl-]
solvent | DMF | 1.8 mL | CN(C)C=O | C3H7NO
product | 1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-ol | 0.143 g, 68% | C1(=CC=CC=C1)C1COC=2C=CC=C3C4=C(C=CC=C4N1C23)O | C20H15NO2
